US04349378
Methyl isocyanate (1.2 ml) was added to an acetone solution of N-[2-hydroxyiminopropyl]-2',6'-dimethylmethanesulphonanilide (2.7 g) containing triethylamine (0.05 ml). The mixture was allowed to stand at room temperature overnight, then evaporated to a viscous oil which slowly solidified on standing. Recrystallisation from ethylacetate/60°-80° petrol gave colourless crystals of N-[2-(methylcarbamoyloxyimino)propyl]-2',6'-dimethylmethanesulphonanilide. Yield 3.0 g (91%). Melting point 130°-134°.

reactant | Methyl isocyanate | 1.2 ml | CN=C=O | C2H3NO
reactant | acetone | CC(=O)C | C3H6O
reactant | N-[2-hydroxyiminopropyl]-2',6'-dimethylmethanesulphonanilide | 2.7 g | ON=C(CN(C1=C(C=CC=C1C)C)S(=O)(=O)C)C | C12H18N2O3S
solvent | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
product | N-[2-(methylcarbamoyloxyimino)propyl]-2',6'-dimethylmethanesulphonanilide | CNC(=O)ON=C(CN(C1=C(C=CC=C1C)C)S(=O)(=O)C)C | C14H21N3O4S
